US04720297
50% Oily sodium hydride (0.21 g) was suspended in N,N-dimethylformamide (5 ml), and the resultant suspension was cooled to 0° C. 6-Fluoro-5-nitro-2-(3H)-benzothiazolone (1.0 g) was portionwise added thereto at 0° C., and the mixture was stirred at the same temperature for 30 minutes. Ethyl bromoacetate (0.86 g) was added to the reaction mixture at 0° C., and the temperature was gradually elevated to a temperature of 50° to 60° C., followed by stirring at that temperature for 3 hours. Water was added to the mixture, which was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel thin layer chromatography with a mixture of ethyl acetate and toluene (1:9) to give 0.35 g of 3-ethoxycarbonylmethyl-6-fluoro-5-nitro-2(3H)-benzothiazolone. m.p., 139.0°-140.0° C.

reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | 6-Fluoro-5-nitro-2-(3H)-benzothiazolone | 1.0 g | FC1=CC2=C(NC(S2)=O)C=C1[N+](=O)[O-] | C7H3FN2O3S
reactant | Ethyl bromoacetate | 0.86 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-ethoxycarbonylmethyl-6-fluoro-5-nitro-2(3H)-benzothiazolone | 0.35 g | C(C)OC(=O)CN1C(SC2=C1C=C(C(=C2)F)[N+](=O)[O-])=O | C11H9FN2O5S
